US05416231
The 2-(5-tetrahydropyranyloxy-3-pentyl)cyclopropylmethyl t-butyldimethylsilyl ether (3 g, 10 mmol) was dissolved in tetrahydrofuran (10 ml), and tetrabutyl ammonium fluoride (factor=1.0, 12 ml, 12 mmol) was added at 0° C. The mixture was stirred for 30 minutes. The solvent was distilled off, and the product was purified by silica gel column chromatography to obtain 2-(5-tetrahydropyranyloxy-3-pentynyl)cyclopropanemethanol (1.2 g)

reactant | 2-(5-tetrahydropyranyloxy-3-pentyl)cyclopropylmethyl t-butyldimethylsilyl ether | 10 mmol, 3 g | [Si](C)(C)(C(C)(C)C)OCC1C(C1)C(CC)CCOC1OCCCC1 | C20H40O3Si
reactant | tetrabutyl ammonium fluoride | 12 mmol, 12 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(5-tetrahydropyranyloxy-3-pentynyl)cyclopropanemethanol | 1.2 g | O1C(CCCC1)OCC#CCCC1C(C1)CO | C14H22O3
